US07157487B2
To 1-methylindole-3-carboxylic acid (917 mg, 5.23 mmol) was added methylene chloride (20 ml). Under stirring at 0° C., oxalyl chloride (0.68 ml, 7.85 mmol) and DMF (catalytic amount) were added. After stirring at room temperature for 1.5 hours, the reaction mixture was distilled under reduced pressure to remove the solvent. The residue was added with xylene (20 ml). Methyl (4-amino-2-fluoro-3-hydroxyphenyl)acetate (1.0 g, 5.0 mmol) and boric acid (539 mg, 8.72 mmol) were added to the resulting mixture, followed by stirring at 160° C. for 3 days. After the reaction mixture was cooled to room temperature, ice water was added thereto, followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was subjected to chromatography on a silica gel column to collect chloroform/ethyl acetate (10/1) eluate fractions and then, purified by chromatography using a thin layer plate, whereby from chloroform/acetone (10/1) eluate fractions, methyl 7-fluoro-2-(1-methyl-3-indolyl)-6-benzoxazolylacetate (62 mg, 4%) was obtained as a pale brown solid.

reactant | 1-methylindole-3-carboxylic acid | 5.23 mmol, 917 mg | CN1C=C(C2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | oxalyl chloride | 7.85 mmol, 0.68 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Methyl (4-amino-2-fluoro-3-hydroxyphenyl)acetate | 5.0 mmol, 1.0 g | NC1=C(C(=C(C=C1)CC(=O)OC)F)O | C9H10FNO3
reactant | boric acid | 8.72 mmol, 539 mg | B(O)(O)O | BH3O3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | methyl 7-fluoro-2-(1-methyl-3-indolyl)-6-benzoxazolylacetate | 62 mg, 4% | FC1=C(C=CC=2N=C(OC21)C2=CN(C1=CC=CC=C21)C)CC(=O)OC | C19H15FN2O3
